US05629152
N-Benzyloxycarbonyl-N-l-carboxymethyl Cytosine
To a suspension of N-benzyloxycarbonyl cytosine (0.317 mol) and potassium carbonate (0.317 mol) in dimethylformamide (900 ml) is added methyl bromoacetate (0.317 mol) and the mixture is stirred vigorously overnight under nitrogen. The mixture is filtered, washed with ether and evaporated to dryness, in vacuo. The solid residue is treated with water (300 ml) and 4N hydrochloric acid (12 ml), stirred for 20 minutes at 0° C., filtered and washed with water (2×100 ml). The precipitate is treated with water and 2N sodium hydroxide (60 ml), and is boiled for 10 minutes. The mixture is cooled to 0° C., filtered, and precipitated by the addition of 4N hydrochloric acid (70 ml) to afford the pure title compound.

reactant | N-benzyloxycarbonyl cytosine | 0.317 mol | C(C1=CC=CC=C1)OC(=O)NC1=NC(NC=C1)=O | C12H11N3O3
reactant | potassium carbonate | 0.317 mol | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.317 mol | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | N-Benzyloxycarbonyl-N-l-carboxymethyl Cytosine | C(C1=CC=CC=C1)OC(=O)N(C1=NC(NC=C1)=O)CC(=O)O | C14H13N3O5
